US08236826B2
Production of ethyl methyl[2,5-difluoro-4-(5-nitropyridin-2-yloxy)phenyl]aminoacetate
To a solution of ethyl(2,5-difluoro-4-hydroxyphenyl)aminoacetate (1.1 g, 4.8 mmol) in DMF (25 mL) were added sodium bicarbonate (0.44 g, 5.2 mmol) and methyl iodide (1.69 mL, 28.6 mmol), and the resulting reaction solution was stirred for 2 days at room temperature. Water was added to the reaction mixture, and extracted with ethyl acetate. Once the ethyl acetate layer had been washed with water, the ethyl acetate layer was dried with anhydrous magnesium sulfate, and evaporated. The residue was dissolved in DMF (30 mL), and to this resulting solution were added potassium carbonate (0.72 g, 5.2 mmol) and 2-chloro-5-nitropyridine (0.79 g, 5.0 mmol). The reaction solution was stirred for 2.5 days at room temperature. Water was added to the reaction mixture, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, and dried over anhydrous magnesium sulfate. The solvent was then evaporated, and the residue was purified by silica gel chromatography (n-hexane:ethyl acetate=8:1), to thereby yield 1.41 g of the title compound.

reactant | ethyl(2,5-difluoro-4-hydroxyphenyl)aminoacetate | 4.8 mmol, 1.1 g | C(C)OC(CNC1=C(C=C(C(=C1)F)O)F)=O | C10H11F2NO3
reactant | sodium bicarbonate | 5.2 mmol, 0.44 g | C([O-])(O)=O.[Na+]
reactant | methyl iodide | 28.6 mmol, 1.69 mL | CI | CH3I
reactant | potassium carbonate | 5.2 mmol, 0.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-nitropyridine | 5.0 mmol, 0.79 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | ethyl methyl[2,5-difluoro-4-(5-nitropyridin-2-yloxy)phenyl]aminoacetate | CC(C(=O)OCC)NC1=C(C=C(C(=C1)F)OC1=NC=C(C=C1)[N+](=O)[O-])F | C16H15F2N3O5
